US06284755B1
Step C: Preparation of 3-ethyl-1-(2-hydroxy-ethyl)-3-(3-benzyloxy-phenyl)-azepan-2-one
A solution of 1-allyl-3-ethyl-3-(3-benzyloxy-phenyl)-azepan-2-one, as described in Step B above, (0.87 g, 2.4 mmol) in MeOH (20 mL) at −78° C. was saturated with 03 for 25 min. The solution was warmed to −40° C. for 10 min then NaBH4 (0.363 g, 9.6 mmol) was added and the reaction mixture was stirred at 25° C. for 1 hr. The MeOH was removed in vacuo , and the residue was partitioned between EtOAc and saturated NaHCO3 solution. The organic layer was washed with brine and dried (MgSO4). Filtration and concentration to dryness gave the title compound after chromatography on silica gel eluting with hexane/EtOAc, 1/1.

reactant | 1-allyl-3-ethyl-3-(3-benzyloxy-phenyl)-azepan-2-one | C(C=C)N1C(C(CCCC1)(C1=CC(=CC=C1)OCC1=CC=CC=C1)CC)=O | C24H29NO2
reactant | NaBH4 | 9.6 mmol, 0.363 g | [BH4-].[Na+]
reactant | MeOH | 20 mL | CO | CH4O
product | 3-ethyl-1-(2-hydroxy-ethyl)-3-(3-benzyloxy-phenyl)-azepan-2-one | C(C)C1(C(N(CCCC1)CCO)=O)C1=CC(=CC=C1)OCC1=CC=CC=C1 | C23H29NO3
